US07875639B2
Ethyl 2-imino-3-(2-methoxyethyl)-2,3-dihydrothiazole-5-carboxylate hydrobromide
A mixture of commercially available ethyl 2-aminothiazole-5-carboxylate (ABCR) and 2-bromoethyl methyl ether (Aldrich) was processed using the method described in Example 46A to afford the title compound, MS (ESI+) m/z 231 (M+H)+.

reactant | ethyl 2-aminothiazole-5-carboxylate | NC=1SC(=CN1)C(=O)OCC | C6H8N2O2S
reactant | 2-bromoethyl methyl ether | COCCBr | C3H7BrO
product | Ethyl 2-imino-3-(2-methoxyethyl)-2,3-dihydrothiazole-5-carboxylate hydrobromide | Br.N=C1SC(=CN1CCOC)C(=O)OCC | InChI=1S/C9H14N2O3S.BrH/c1-3-14-8(12)7-6-11(4-5-13-2)9(10)15-7;/h6,10H,3-5H2,1-2H3;1H
